* source PRACTICA 1-6
V_V1         L1 N14422  
+SIN 0 537.40 100Hz 0 0 0
V_V2         L2 N14422  
+SIN 0 537.40 100Hz 0 0 0
V_V3         L3 N14422  
+SIN 0 537.40 100Hz 0 0 0
L_Lr1         L1 N14614  {Lred} IC=0A 
L_Lr2         L2 N14618  {Lred} IC=-24 
L_Lr3         L3 N14622  {Lred} IC=24A 
R_Rr1         N14614 N14775  1m TC=0,0 
R_Rr2         N14618 N14779  1m TC=0,0 
R_Rr3         N14622 N14783  1m TC=0,0 
D_D1         N14775 OUT Dbreak 
D_D2         N14779 OUT Dbreak 
D_D3         N14783 OUT Dbreak 
D_D4         0 N14775 Dbreak 
D_D5         0 N14779 Dbreak 
D_D6         0 N14783 Dbreak 
R_RESR         N14913 OUT  20m TC=0,0 
C_Cf         N14913 0 {Cap}
R_Rcarga         0 OUT  {carga} TC=0,0 
.PARAM  lred=1mh carga=20 cap=1mf
